US04837241
b: 1-Methyl-4-cyano-1,2,5,6-tetrahydropyridine
A solution of 1-methyl-4-carbamoyl-1,2,5,6-tetrahydropyridinium chloride (3.6 g;20.4 mmol) in sodium hydroxide (4N)(30 ml) was extracted with methylene chloride (3×50 ml). The combined extracts were dried, filtered, and evaporated to 50 ml. To the extract a solution of triphenylphosphine (15.7 g; 60 mmol), bromine (3.3 ml; 65 mmol) and triethylamine (11 ml) in methYIenechlorid (150 ml) was added. The reaction was stirred at room temperature for 20 hours and evaporated in vacuo. The residue was dissolved in water (50 ml) and washed with methylene chloride (3×75 ml). To the water-phase sodium hydroxide (4N) (30 ml) was added and the mixture was extracted with methylene chloride. The combined extracts were dried, filtered, and evaporated in vacuo to give the title compound.

reactant | 1-methyl-4-carbamoyl-1,2,5,6-tetrahydropyridinium chloride | 20.4 mmol, 3.6 g | [Cl-].C[NH+]1CC=C(CC1)C(N)=O
reactant | triphenylphosphine | 60 mmol, 15.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 65 mmol, 3.3 ml | BrBr | Br2
reactant | triethylamine | 11 ml | C(C)N(CC)CC | C6H15N
solvent | sodium hydroxide | 4N, 30 ml | [OH-].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methYIenechlorid | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-Methyl-4-cyano-1,2,5,6-tetrahydropyridine | CN1CC=C(CC1)C#N | C7H10N2
